US09340544B2
(4-Chloro-phenyl)-[2-(3,5-diethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-amine (Compound 9.14)
Was prepared according to Example 9 from (4-chloro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine and 3,5-heptanedione.

reactant | (4-chloro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)NN)C | C12H12ClN7
reactant | 3,5-heptanedione | CCC(CC(CC)=O)=O | C7H12O2
product | (4-Chloro-phenyl)-[2-(3,5-diethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)N1N=C(C=C1CC)CC)C | C19H20ClN7
